US03932471
3,3-Dimethyl-2-methylcarbamyloximino-1-(1-pyrrolidinyl)-butane (Compound 7870)
To a solution of 12.6 g of 1-bromo-3,3-dimethyl-2-methylcarbamyloximinobutane in 100 ml of anhydrous ether is added, dropwise, 7.8 (0.11 m) of pyrrolidine. The mixture is stirred at room temperature for 1 hour and at reflux for 0.5 hour, then cooled and washed with water. The ether solution is separated, dried, and stripped of solvent to give 11.8 g of amber oil which solidifies on standing to an amber solid, m. 43°-46° C. Properties of this and analogous compounds prepared by substantially the same procedure are shown in Tables 5 and 6.

reactant | 1-bromo-3,3-dimethyl-2-methylcarbamyloximinobutane | 12.6 g | BrC(C(C(C)(C)C)C(NC)=O)=NO | C8H15BrN2O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3,3-Dimethyl-2-methylcarbamyloximino-1-(1-pyrrolidinyl)-butane | 11.8 g | CC(C(C(N1CCCC1)=NO)C(NC)=O)(C)C | C12H23N3O2
